US07199147B2
Trifluoroacetic acid (5.0 ml) was added to a solution of benzyl 4-{[(1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)amino]sulfonyl}-1-piperidinecarboxylate (500 mg, 1.00 mmol) in methylene chloride (50 ml) at room temperature and stirred for 2 hours. After the reaction solution was concentrated, a saturated aqueous sodium hydrogencarbonate solution was added thereto, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=50/1) to obtain benzyl 4-[(1H-indazol-5-ylamino)sulfonyl]piperidine-1-carboxylate (317 mg, 76%).

reactant | Trifluoroacetic acid | 5.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl 4-{[(1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)amino]sulfonyl}-1-piperidinecarboxylate | 1.00 mmol, 500 mg | O1C(CCCC1)N1N=CC2=CC(=CC=C12)NS(=O)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C25H30N4O5S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | benzyl 4-[(1H-indazol-5-ylamino)sulfonyl]piperidine-1-carboxylate | 317 mg, 76% | N1N=CC2=CC(=CC=C12)NS(=O)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H22N4O4S
